US09079866B2
4′-(5-Aminopyrazin-2-yl)-N,N,3′-trimethylbiphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 589 using 5-(4-bromo-2-methylphenyl)pyrazin-2-amine and (2-(N,N-dimethylsulfamoyl)phenyl)boronic acid. MS (ESI): mass calcd. for C19H20N4O2S, 368.46; m/z found, 369.1 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.16 (d, J=1.5, 1H), 8.12 (dd, J=8.0, 1.3, 1H), 8.10 (d, J=1.5, 1H), 7.60-7.55 (m, 1H), 7.52-7.47 (m, 1H), 7.43 (d, J=7.8, 1H), 7.35-7.29 (m, 3H), 4.77 (s, 2H), 2.44 (s, 3H), 2.42 (s, 6H).

reactant | 5-(4-bromo-2-methylphenyl)pyrazin-2-amine | BrC1=CC(=C(C=C1)C=1N=CC(=NC1)N)C | C11H10BrN3
reactant | (2-(N,N-dimethylsulfamoyl)phenyl)boronic acid | CN(S(=O)(=O)C1=C(C=CC=C1)B(O)O)C | C8H12BNO4S
product | 4′-(5-Aminopyrazin-2-yl)-N,N,3′-trimethylbiphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N(C)C)C | C19H20N4O2S
